US07435815B2
4-tert-Butyl-N-(2-methoxy-phenyl)-benzenesulfonamide
prepared by reaction of o-anisidine with 4-tert-butyl-benzenesulfonyl chloride

reactant | o-anisidine | COC=1C(=CC=CC1)N | C7H9NO
reactant | 4-tert-butyl-benzenesulfonyl chloride | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
product | 4-tert-Butyl-N-(2-methoxy-phenyl)-benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=CC=C1)OC | C17H21NO3S
